US04585873
2-Methylamino-6-phenylimidazo[2,1-b]-1,3,4-thiadiazole
18.0 g of 2-bromo-5-amino-1,3,4-thiadiazole (0.1 mol) and 20.0 g of ω-bromoacetophenone (0.1 mol) in 250 ml of dimethylformamide are heated to 100° C. for 4.5 hours. After cooling down to room temperature, 100 ml of ice-water are added and the precipitate is filtered off with suction. After drying, it is taken up in chloroform and, after the addition of ether, recrystallized. The crude 2-bromo-6-phenylimidazo[2,1-b]-1,3,4-thiadiazole is then heated to reflux for 2 hours in 250 ml of ethanol with 25 ml of 30% strength methylamine solution. After cooling down, precipitation is by addition of 200 ml of water, the precipitate is filtered off with suction and recrystallized from chloroform/ether. Yield: 12.6 g (55%) Melting point: 177° C.

reactant | 2-bromo-5-amino-1,3,4-thiadiazole | 0.1 mol, 18.0 g | BrC=1SC(=NN1)N | C2H2BrN3S
reactant | ω-bromoacetophenone | 0.1 mol, 20.0 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 2-Methylamino-6-phenylimidazo[2,1-b]-1,3,4-thiadiazole | CNC1=NN2C(S1)=NC(=C2)C2=CC=CC=C2 | C11H10N4S
